US08865712B2
j) 5-(2-Bromo-pyridin-4-yl)-5-hydroxymethyl-morpholin-3-one
To a solution of N-[1-(2-bromo-pyridin-4-yl)-2-hydroxy-1-hydroxymethyl-ethyl]-2-chloro-acetamide (8.0 g, 2.48 mmol) in t-BuOH (50 ml) was added t-BuOK (5.5 g, 49.6 mmol) and NaI (0.375 g, 2.48 mmol) and heated to 90° C. for 1 h. Reaction mass was concentrated under reduced pressure and diluted the residue with EtOAc. Organic layer was separated and washed with ammonium chloride solution, brine followed by drying over anhy. Na2SO4. The crude product was purified by column chromatography using 5% methanol in DCM to obtain title compound as a pale brown gum. Yield=3.25 g (46%). TLC (ethyl acetate) Rf=0.17; LCMS: RtH8=0.12; [M+1]+=286.7 and 289.

reactant | N-[1-(2-bromo-pyridin-4-yl)-2-hydroxy-1-hydroxymethyl-ethyl]-2-chloro-acetamide | 2.48 mmol, 8.0 g | BrC1=NC=CC(=C1)C(CO)(CO)NC(CCl)=O | C10H12BrClN2O3
reactant | t-BuOK | 49.6 mmol, 5.5 g | CC(C)(C)[O-].[K+]
reactant | NaI | 2.48 mmol, 0.375 g | [Na+].[I-]
solvent | t-BuOH | 50 ml | CC(C)(C)O | C4H10O
product | 5-(2-Bromo-pyridin-4-yl)-5-hydroxymethyl-morpholin-3-one | BrC1=NC=CC(=C1)C1(COCC(N1)=O)CO | C10H11BrN2O3
